US05099020
Diethyl cyclopentylmalonate
To a solution of 4.6 g (0.2 mol) sodium in 80 mL absolute ethanol was added 30.4 mL (0.2 mol) diethyl malonate. After briefly stirring, 21.4 mL (0.2 mol) cyclopentyl bromide was added, and the resulting solution refluxed for 12 hrs. Most of the ethanol was then removed by rotary evaporation, and the reaction was quenched with 250 mL of water and extracted 3 ×, each with 100 mL ether. The extracts were dried over MgSO4, filtered, and concentrated. Distillation through a 6" Vigreaux at 6 mm Hg provided 32.232 g of a clear colorless oil at bp 122-125 C.

reactant | sodium | 0.2 mol, 4.6 g | [Na] | Na
reactant | diethyl malonate | 0.2 mol, 30.4 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | cyclopentyl bromide | 0.2 mol, 21.4 mL | C1(CCCC1)Br | C5H9Br
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | Diethyl cyclopentylmalonate | 32.232 g | C1(CCCC1)C(C(=O)OCC)C(=O)OCC | C12H20O4
